US05302720
A mixture of N-(2-biphenylyl)-N'-methylthiourea (10.5 g), methyl iodide (6.8 g) and acetone (75 ml) was heated under reflux for 2.5 hours to give 1-(2-biphenylyl)-2,3-dimethyl-2-thiopseudourea hydriodide.

reactant | N-(2-biphenylyl)-N'-methylthiourea | 10.5 g | C1(=C(C=CC=C1)NC(=S)NC)C1=CC=CC=C1 | C14H14N2S
reactant | methyl iodide | 6.8 g | CI | CH3I
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-(2-biphenylyl)-2,3-dimethyl-2-thiopseudourea hydriodide | I.C1(=C(C=CC=C1)NC(SC)=NC)C1=CC=CC=C1 | InChI=1S/C15H16N2S.HI/c1-16-15(18-2)17-14-11-7-6-10-13(14)12-8-4-3-5-9-12;/h3-11H,1-2H3,(H,16,17);1H
